US06586617B1
To a solution of 4-Aminophenyl thiocyanate (10.0 g (66.6 mmol)) in pyridine (70 ml), p-toluenesulfonyl chloride (12.7 g (66.6 mmol)) was added with stirring at room temperature, and the mixture was stirred at room temperature for 16 hours. Then, water was added to the reaction mixture and the resulting mixture was extracted with ethyl acetate. The extract was washed with dilute hydrochloric acid and a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, filtered and concentrated under reduced pressure to give 19.4 g (98%) of 4′-thiocyano-p-toluenesulfonanilide as pale yellow crystals.

reactant | 4-Aminophenyl thiocyanate | 66.6 mmol, 10.0 g | NC1=CC=C(C=C1)SC#N | C7H6N2S
reactant | p-toluenesulfonyl chloride | 66.6 mmol, 12.7 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | O | H2O
solvent | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
product | 4′-thiocyano-p-toluenesulfonanilide | 19.4 g, 98% | S(C#N)C1=CC=C(NS(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C14H12N2O2S2
